US04129594
Following the general procedure of Example 1 for the preparation of the diacid chloride, 9.06 parts of terephthalic acid were added to a mixture of 11.82 parts of 4-methylpyridine and 14.1 parts phosgene in 200 parts dry dichloromethane at 25° to 30° C. The ratio of equivalents of methylpyridine base/COOH acid group was 1.16. After carrying out the reaction and esterifying the resulting diacid chloride by the procedure described in Example 1, a 100% yield of dimethyl terephthalate was obtained corresponding to a quantitive yield of terephthaloyl chloride formed initially in the reaction.

reactant | terephthalic acid | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | 4-methylpyridine | CC1=CC=NC=C1 | C6H7N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | methylpyridine | CC1=NC=CC=C1 | C6H7N
reactant | terephthaloyl chloride | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | dimethyl terephthalate | 100% yield | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
